US07465726B2
4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-ylmorpholin-4-ylmethanone
To a suspension of benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (200 mg, 0.44 mmol) in N,N-dimethylformamide (4 mL) was added N,N-diisopropylethylamine (0.5 mL, 3 mmol). The reaction mixture was stirred at 0° C. for 5 min prior to the addition of 4-chloro-carbonylmorpholine (65 mg, 0.44 mmol) in DMF (0.5 mL). The resulting mixture was stirred at 0° C. for 1 h, diluted with EtOAc (30 mL), washed with water (2×15 mL), brine (15 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated to 5 mL, and the resulting off-white solid was collected by filtration to give the title compound. LC-MS (ES, Pos.): 462 [MH+], and 1H NMR (DMSO-d6, 400 MHz): δ=2.53 (m, 2H), 3.17 (m, 4H), 3.43 (m, 2H), 3.60 (m, 4H), 3.96 (m, 2H), 6.42 (s, 1H), 6.82 (d, J=1.2 Hz, 1H), 7.88 (dd, J=8.8 Hz, 2.0 Hz, 1H), 8.04 (d, J=8.8 Hz, 1H), 8.34 (s, 1H), 8.91 (d, J=2.0 Hz, 1H), 9.23 (s, 1H), 9.60 (s, 1H), 12.0 (s, 1H).

reactant | benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.44 mmol, 200 mg | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1
reactant | N,N-diisopropylethylamine | 3 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-carbonylmorpholine | 0.44 mmol, 65 mg | ClN1C(COCC1)=C=O | C5H6ClNO2
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-ylmorpholin-4-ylmethanone | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)N1CCOCC1 | C23H23N7O2S
